US05068325
8i) 2-Amino-6-(3-(4-methylsulphonyl-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 4-methylsulphonyl-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 21% of theory, Melting point: 157°-161° C. (ether).

reactant | 4-methylsulphonyl-cinnamyl chloride | CS(=O)(=O)C1=CC=C(C=CCCl)C=C1 | C10H11ClO2S
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(4-methylsulphonyl-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 21% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)S(=O)(=O)C | C17H21N3O2S2
